US09226916B2
rac-[(3R,4S)-1-(1-Cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-chloro-phenyl ester
In analogy to the procedure described for the synthesis of example 2 (step b), the title compound rac-[(3R,4S)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-chloro-phenyl ester was prepared from rac-(1-cyclopropylmethyl-piperidin-4-yl)-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone instead of rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 4-chloro-phenyl chloroformate instead of fluorophenyl chloroformate and was obtained as a colorless oil. MS m/e: 564.2 [M]+.

reactant | rac-(1-cyclopropylmethyl-piperidin-4-yl)-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone | C1(CC1)CN1CCC(CC1)C(=O)N1C[C@@H]([C@H](C1)NC)C1=CC(=C(C=C1)Cl)Cl | C21H29Cl2N3O
reactant | 4-chloro-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
product | rac-[(3R,4S)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)CC1CC1)=O | C28H32Cl3N3O3
